US07354977B1
For instance, we treated trans-3-hexenoic acid (a low molar mass model compound for HTBN) with ethylene carbonate in the presence of a phase transfer catalyst to yield 2-hydroxyethyl-3-hexenoate. More specifically, trans-3-hexenoic acid (about 1.14 grams; about 0.001 moles, commercially available from Aldrich Chemical Co., Milwaukee, Wis.), ethylene carbonate (about 0.97 grams; about 0.001 moles) and phase transfer catalyst were added to a 25 ml reaction flask containing a magnetic stirrer. The mixture was stirred at elevated temperature conditions to effect the hydroxyethylation reaction of the hexenoic acid. The reaction yields were estimated from the 1H NMR spectrum of the crude product mixture.

reactant | trans-3-hexenoic acid | C(C\C=C\CC)(=O)O | C6H10O2
reactant | ethylene carbonate | C1(OCCO1)=O | C3H4O3
product | 2-hydroxyethyl-3-hexenoate | OCCOC(CC=CCC)=O | C8H14O3
